Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]([C:3]([H:10])([H:11])[H:12])(=[C:4]([H:14])[H:15])[C:5](=[O:6])[H:16],105.143350500101
[C:1]([O:2][C@@:7]1([H:17])[C@:4]([C:3][H:11])([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],19.843956025211085
[O:1]=[C:2]=[C:3]=[C:4]([N+:6]#[C-:5])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6],59.8285950312946
[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8]>>[N:1](=[C:2](/[C:3](=[C:4]([H:10])[H:11])[H:9])[O:7][N+:6]#[C-:5])\[H:8],85.72874621062321
[N-:1]=[C:2]=[C:3]([C:4]([C+:5]=[N:6][H:7])([H:9])[H:10])[H:8]>>[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],30.625744274556794
[H:7][H:9].[O:1]=[C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])[H:8]>>[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],73.2437181532852
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2](=[N+:3]=[C:4]([O:5][C:6]([H:13])([H:14])[H:15])[H:12])[H:11].[C:1]([H:7])([H:8])([H:9])[H:10],69.4124050014991
[O:1](/[C:2](=[C:3](\[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])[H:9])[H:7])[H:8]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],57.597981577106204
[C:4]=[N:5][H:9].[N:1]#[C:2][C-:3]([N+:7]#[N:6])[H:8]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,38.7257273495614
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[H:9])([O:6][C:5](=[O:4])[H:11])([H:7])[H:8],76.57486467001009
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:16])([H:17])([H:18])[H:19],74.4047079802724
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[O:4]([C:5]#[C:6][H:14])[H:13],70.1873998099416
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2](=[C:3]([N:5]([C:6]([O-:4])=[N:7][H:14])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10],103.636264650097
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[C:6]#[N:7].[N:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],32.218429420612104
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@:7]3([H:17])[C@@:6]12[H:16],84.8601913528997
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:4]#[N+:5][C:6]([H:13])([H:14])[H:15].[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[H:11][H:12],68.6640310569482
[C:1](=[O:2])([H:7])[H:8].[C:3](=[C:4]=[C:5]([H:6])[H:11])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],38.585438577530326
[C@@:1]12([H:10])[C@@:2]3([H:11])[C:3]([H:12])([H:13])[C@@:4]3([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]2[H:17].[H:8][H:9]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],48.7095125196649
[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[N:1]([C:2](=[O:3])[H:9])([N+:7]#[C-:6])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],33.194713453750104
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:8])[H:10])([H:7])[H:9].[C:3](\[O:4][H:12])(=[C:5](\[O:6][H:14])[H:13])[H:11],86.9479140318673
[C:4](=[O:5])([H:10])[H:11].[N:1]([C:2](=[O:3])/[C:6](=[N:7]/[H:13])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],70.2799935681262
[O:1]=[C:2]([C:5]1=[N:6][C:4]1=[C:3])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],10.803371138722582
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])/[C:4](=[N:6]/[H:13])[O:5]1)([H:7])([H:8])[H:9].[O:3]([H:11])[H:12],47.9258389547116
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],48.38790876577711
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])[C:5][N:6]1[H:8],116.706407724389
